US07585982B2
Production of 2-(6-cyano-3,4-diethoxy-2-fluorobenzyl)isoindol-1,3-dione
A mixture of 2-(6-bromo-3,4-diethoxy-2-fluorobenzyl)isoindol-1,3-dione (1.00 g, 2.37 mol), copper cyanide (0.42 g, 4.74 mol) and N,N-dimethylformamide (5 mL) was stirred at 155° C. for ten hours. After the reaction mixture was extracted with a 10% aqueous solution of ethylene diamine and toluene, the resultant organic layer was washed sequentially with a 10% aqueous solution of ethylene diamine and saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was distilled off to give crude crystals, which were washed with ethyl acetate to give 0.52 g of the title compound (yield: 60%) as slightly green crystals.

reactant | 2-(6-bromo-3,4-diethoxy-2-fluorobenzyl)isoindol-1,3-dione | 2.37 mol, 1.00 g | BrC1=CC(=C(C(=C1CN1C(C2=CC=CC=C2C1=O)=O)F)OCC)OCC | C19H17BrFNO4
reactant | copper cyanide | 4.74 mol, 0.42 g | [Cu](C#N)C#N
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-(6-cyano-3,4-diethoxy-2-fluorobenzyl)isoindol-1,3-dione | 0.52 g, yield: 60% | C(#N)C1=CC(=C(C(=C1CN1C(C2=CC=CC=C2C1=O)=O)F)OCC)OCC | C20H17FN2O4
